US04405530
C. 2-Fluoromethyl-2-amino-6-benzyloxy-hexanenitrile
Under an atmosphere of nitrogen, the Grignard reagent is prepared from 1-chloro-4-benzyloxybutane (39.7 g, 0.2 mol), magnesium turnings (10 g, 0.4 mol), and dry ether (400 ml). The Grignard solution is separated from the excess of magnesium, transferred to a 2 l flask, and cooled to -40° C. A solution of fluoroacetonitrile (10.6 g, 0.18 mol) in ether (100 ml) is added slowly, the temperature being maintained between -40° and -30° C. Stirring is continued for 30 minutes more at this temperature. The reaction mixture is then poured into a vigorously stirred solution of sodium cyanide (39 g) and ammonium chloride (59 g) in water (200 ml) containing some ice (200 g). The mixture is vigorously stirred and allowed to warm up to room temperature during one hour. The organic phase is separated and extracted with 1 N HCl (2×250 ml). Basification with concentrated ammonia, extraction with ether, drying, and evaporation gives the title compound as a brown oil (28.3 g).

reactant | 1-chloro-4-benzyloxybutane | 0.2 mol, 39.7 g | ClCCCCOCC1=CC=CC=C1 | C11H15ClO
reactant | magnesium | 0.4 mol, 10 g | [Mg] | Mg
reactant | fluoroacetonitrile | 0.18 mol, 10.6 g | FCC#N | C2H2FN
reactant | sodium cyanide | 39 g | [C-]#N.[Na+]
reactant | ammonium chloride | 59 g | [Cl-].[NH4+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 200 ml | O | H2O
solvent | ether | 400 ml | CCOCC | C4H10O
product | 2-Fluoromethyl-2-amino-6-benzyloxy-hexanenitrile | 28.3 g | FCC(C#N)(CCCCOCC1=CC=CC=C1)N | C14H19FN2O
